US05583127
A solution of 11.18 g of 3β-acetoxy-14β-hydroxy-5β-pregnane-21-nitrile in 260 ml of methanol, 260 ml of tetrahydrofuran and 143 ml of 1N NaOH was stirred at room temperature for 20 hrs. The mixture was then neutralized with sodium dihydrogenphosphate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated to dryness under reduced pressure to give 8.55 g of 3β,14β-dihydroxy-5β-pregnane-21-nitrile.

reactant | 3β-acetoxy-14β-hydroxy-5β-pregnane-21-nitrile | 11.18 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](CC#N)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H35NO3
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methanol | 260 ml | CO | CH4O
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
solvent | NaOH | 1N, 143 ml | [OH-].[Na+]
product | 3β,14β-dihydroxy-5β-pregnane-21-nitrile | 8.55 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](CC#N)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C21H33NO2
